US07745641B2
In a similar manner to Step 1 of Example 304, 7-amino-4-(3-hydroxyphenyl)isoindolinone (137 mg, 0.569 mmol) was dissolved in acetonitrile (7.0 mL), and the solution was treated with tert-butyldimethylsilyl chloride (155 mg, 1.02 mmol) and DBU (0.154 mL, 1.02 mmol), followed by purification by flash column chromatography (chloroform) to obtain 7-amino-4-(3-tert-butyldimethylsilyloxyphenyl)isoindolinone (120 mg, yield 59%).

reactant | 7-amino-4-(3-hydroxyphenyl)isoindolinone | 0.569 mmol, 137 mg | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=CC=C1)O | C14H12N2O2
reactant | tert-butyldimethylsilyl chloride | 1.02 mmol, 155 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DBU | 1.02 mmol, 0.154 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 7.0 mL | C(C)#N | C2H3N
product | 7-amino-4-(3-tert-butyldimethylsilyloxyphenyl)isoindolinone | 120 mg, yield 59% | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C20H26N2O2Si
